Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
omeprazole / famotidine / aspartame
 
Attending: ___.
 
Chief Complaint:
Decreased appetite, Uncontrolled anxiety
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH Depression, PTSD, Schizotypal, Anxiety, OCD who was
recently diagnosed with locally advanced pancreatic cancer who 
is
awaiting initiation of FOLFIRINOX, who was admitted with
uncontrolled anxiety/depression, and failure to thrive in
meantime
Notably, pt has a recent diagnosis of locally advanced 
pancreatic
cancer. She is currently planned to initiate neoadjuvant
FOLFIRINOX on ___, and recently had a POC placed. She has 
been
struggling emotionally with this diagnosis, and has wavered on
whether she wants to proceed with treatment, but most recently
has decided to continue. 
As per review of recent notes, patient has become extremely
anxious on several occasions, which led her or a family member 
to
call the clinic and require significant calming and emotional
support over the phone. She has also had decreased appetite,
change in taste, and worsening PO over the past week.
Accordingly, she presented to ED
In the ED, initial VS were pain 3, T 98.6, HR 104, BP 133/90 RR
17 O2 99%RA. Initial labs were notable for WBC 4.9, HCT 38.6, 
PLT
217. CHEM with HCO3 of 21 and elevated gap. Patient was noted to
be very depressed and anxious, telling ED staff she did not want
to proceed with treatment, and inability to 'deal with this
anymore'. After discussion with Dr. ___ inpatient
management of anorexia and malaise with SW consult would be more
appropriate. 
On arrival to the floor, patient noted that her emotional
difficulties are long-standing as she had a very abusive father
which caused emotional scars that she has difficulties dealing
with up until today.  She noted that she has felt depressed and
sometimes wonders whether or not she would like to live anymore
but denied feeling suicidal or homicidal.  She noted that she
constantly goes back and forth about whether or not she would
like treatment for her cancer.  She noted that she is on 
klonopin
but has not had it recently adjusted and sometimes feels it 
could
benefit from a change. She is at times taking double her
prescribed dose (increased from 0.5 to 1mg BID). She notes that
she has frequent panic attacks but could not quantify exactly 
how
many per week.  
As for appetite patient stated that her long-standing baseline
weight was 125 pounds but she is now down to 87 pounds secondary
to decreased appetite and very little p.o. intake.  Over the 
last
week she said that she has not had a single meal  and typically
only drinks 2 cups of caffeinated tea and water during the day. 
She noted that despite her decreased p.o. intake she continues 
to
urinate normally (clear yellow) and is having daily stooling. 
She noted that she has baseline right-sided epigastric abdominal
pain which is episodic at times 10 out of 10 with movement but 
is
currently comfortable.  She was prescribed tramadol in the
outpatient setting and feels it is working well.
Patient denied sore throat and shortness of breath but endorsed
occasional cough.  Denied nausea or vomiting or diarrhea or
dysuria.  No rash.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
As per Dr ___ clinic note:
"She reports new onset upper abdominal and back pain present
since the ___ which was associated with an unintentional 
15
pound weight loss.  She was eventually hospitalized ___
with profuse diarrhea and diagnosed with pancreatitis.  CT scan
was unremarkable, and she was referred for MRCP.  This study
performed ___ showed a mass in the pancreatic body.  She
then underwent endoscopic ultrasound which showed a 2 x 2.8 cm
mass adjacent to the celiac artery. Fine-needle aspirate and
biopsy showed adenocarcinoma. She was
seen in ___ Multidisciplinary pancreatic cancer team on
___. Tumor was felt to be initially unresectable and
neoadjuvant FOLFIRINOX with SBRT was recommended before 
reimaging
to determine surgical status"
PAST MEDICAL HISTORY: 
1.  OCD
2.  anxiety disorder
3.  depression
4.  PTSD
5.  schizotypal disorder
6.  Locally advanced pancreatic cancer (see above)
 
Social History:
___
Family History:
No known family history of cancer.  Brother is dying of 
___.
 
Physical Exam:
VS: T 98.6 BP 124/84 HR 97 RR 18 O2 96%RA
General: Very anxious.
HEENT: EOMI, MMM, Neck Supple.
CV: RRR
RESPIRATORY: CTA
Abdomen: Soft, nontender, nondistended.
Extremities: No edema.
Neuro: Alert and oriented, no focal deficits.
 
Pertinent Results:
___ 04:45PM BLOOD WBC-4.9 RBC-4.39 Hgb-13.2 Hct-38.6 MCV-88 
MCH-30.1 MCHC-34.2 RDW-12.2 RDWSD-39.7 Plt ___
___ 04:42AM BLOOD WBC-3.9* RBC-4.17 Hgb-12.7 Hct-36.0 
MCV-86 MCH-30.5 MCHC-35.3 RDW-12.2 RDWSD-38.9 Plt ___
___ 04:42AM BLOOD ___ PTT-33.6 ___
___ 04:45PM BLOOD Glucose-60* UreaN-12 Creat-0.6 Na-140 
K-3.7 Cl-96 HCO3-21* AnGap-23*
___ 04:56AM BLOOD Creat-0.5 K-3.6
___ 04:42AM BLOOD ALT-10 AST-15 LD(LDH)-178 AlkPhos-71 
TotBili-0.6
___ 04:45PM BLOOD Calcium-9.3 Phos-3.5 Mg-2.2
___ 04:42AM BLOOD Calcium-9.2 Phos-2.9 Mg-2.0
___ 04:55AM BLOOD VitB12-1589* Folate->20
___ 04:55AM BLOOD TSH-3.7
___ 10:16PM BLOOD Lactate-1.2
Chest X-ray: No acute cardiopulmonary abnormality.
 
Brief Hospital Course:
___ PMH Depression, PTSD, Schizotypal, Anxiety, OCD who was 
recently diagnosed with locally advanced pancreatic cancer who 
is awaiting initiation of FOLFIRINOX, who was admitted with 
uncontrolled anxiety/depression, and failure to thrive.

Malnutrition
- Decreased oral intake is likely due to nausea, abdominal pain, 
and anxiety. Nutrition consulted. Encouraged to have 
supplements. Nutrition will need followed up as an outpatient.

Anxiety
- Increased anxiety related to new diagnosis. Consulted 
psychiatry. Started vistaril and mirtazapine. Consider brain MRI 
as an outpatient to evaluate for underlying dementia. Will 
benefit from continued follow up with social work and palliative 
care as an outpatient.

Locally advanced pancreatic cancer
- Scheduled to begin treatment this week but patient very 
anxious about this and unsure if she wants to purse treatment or 
explore hospice options. She will follow up with her primary 
oncologist tomorrow and establish care with palliative care 
later in the week. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO BID 
2. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
3. Ranitidine 150 mg PO BID 

 
Discharge Medications:
1.  HydrOXYzine 12.5 mg PO Q6H:PRN severe anxiety 
RX *hydroxyzine HCl 25 mg 0.5 (One half) tab by mouth every six 
(6) hours Disp #*15 Tablet Refills:*0 
2.  Mirtazapine 7.5 mg PO QHS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  Multivitamins 1 TAB PO DAILY  
4.  Thiamine 100 mg PO DAILY Duration: 5 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth Daily 
Disp #*3 Tablet Refills:*0 
5.  ClonazePAM 0.5 mg PO BID  
6.  Ranitidine 150 mg PO BID  
7.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic Cancer
Anxiety
Malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with increased anxiety about your pancreatic 
cancer diagnosis and malnutrition from not eating much. You were 
started on medications to help. Try to drink at least three 
ensures a day. Follow up with Dr. ___ to get more of your 
questions about treatment answered.
 
Followup Instructions:
___